US08003800B2
To a slurry of Mg turnings (3.89 g, 160 mmol) in dry diethyl ether (150 mL), a solution of isoamylbromide (24.59 g, 163 mmol) in diethyl ether (20 mL) is slowly added. As soon as the reaction starts, the mixture is cooled if necessary with a water bath. After complete addition, the mixture is stirred for 30 min, and is then added slowly to a cooled (0° C.) mixture of isobutyronitrile (34.65 g, 501 mmol) and CuBr (1.15 g, 8.0 mmol) in diethyl ether (50 mL) and THF (50 mL). After complete addition (30 min) the mixture is stirred at rt for 1 h before 1 N aq. NaH2PO4 (50 mL) and 1N aq. HCl (100 mL) is added. Stirring is continued at rt for 15 min. The phases are separated and the aq. phase is extracted with additional diethyl ether (100 mL). The combined organic extracts are washed with aq. 1N aq. HCl (2×50 mL), sat. aq. NH4Cl/sat. aq. NaHCO3 1:1 (2×50 mL) and brine (50 mL), dried over Na2SO4, filtered and evaporated to give crude 2,6-dimethyl-heptan-3-one (20.1 g) as an oil.

reactant | isoamylbromide | 163 mmol, 24.59 g | C(CC(C)C)Br | C5H11Br
reactant | isobutyronitrile | 501 mmol, 34.65 g | C(C(C)C)#N | C4H7N
reactant | HCl | 1N, 100 mL | Cl | ClH
reactant | diethyl ether | 150 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 20 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2,6-dimethyl-heptan-3-one | 20.1 g | CC(C)C(CCC(C)C)=O | C9H18O
